US08912180B2
To a solution of 2-(benzyloxy)ethyl {(3S)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate (84 mg) in methanol (1 mL) was added 10% palladium-carbon (50% wet) (84 mg), followed by stirring at room temperature overnight at 3 atm under a hydrogen atmosphere. The catalyst was removed and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=100:0-92:8) to obtain 2-hydroxyethyl {(3S)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate (30 mg).

reactant | 2-(benzyloxy)ethyl {(3S)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate | 84 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@@H]1CC[C@H](CC1)N1C([C@H](CC1)NC(OCCOCC1=CC=CC=C1)=O)=O)C=CC=C2)F | C36H41F2N7O6
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium-carbon | 84 mg | [C].[Pd]
product | 2-hydroxyethyl {(3S)-1-[trans-4-({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)cyclohexyl]-2-oxopyrrolidin-3-yl}carbamate | 30 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)O[C@@H]1CC[C@H](CC1)N1C([C@H](CC1)NC(OCCO)=O)=O)C=CC=C2)F | C29H35F2N7O6
